US08084448B2
A. 2-Benzyloxy-6-methylphenylamine
To a stirred solution of 1-benzyloxy-3-methyl-2-nitrobenzene (5.0 g, 20.6 mmol) in EtOAc (150 mL) is added SnCl2 (23.2 g, 103 mmol) and the suspension is heated at 80° C. overnight. The suspension is filtered and the filtrate washed with sat. NaHCO3 and extracted with EtOAc. The combined organic layers are washed with water, brine, then dried over MgSO4 and filtered. The solvent is removed under reduced pressure and the residue is purified by flash chromatography (hexanes/EtOAc=10:1 to 5:1) to give the title compound as a yellow oil.

reactant | 1-benzyloxy-3-methyl-2-nitrobenzene | 20.6 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)C)[N+](=O)[O-] | C14H13NO3
reactant | SnCl2 | 103 mmol, 23.2 g | Cl[Sn]Cl
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-Benzyloxy-6-methylphenylamine | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)C)N | C14H15NO
